US07572809B2
Similar procedure as described in example 10 was used, starting from [1-Chloro-6-fluoro-7-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine and 2-propanol to give [1,6-Diisopropoxy-7-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 415(MH+).

reactant | [1-Chloro-6-fluoro-7-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=C(C=C12)OCCOC)F)NC1=NNC(=C1)C | C16H16ClFN4O2
reactant | 2-propanol | CC(C)O | C3H8O
product | [1,6-Diisopropoxy-7-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | C(C)(C)OC1=NC(=CC2=CC(=C(C=C12)OCCOC)OC(C)C)NC1=NNC(=C1)C | C22H30N4O4
